US06034093
C. 5-Iodo-2-(2-methoxy-ethoxymethoxy)-benzyl bromide
To a solution of 5-iodo-2-(2-methoxy-ethoxymethoxy)-benzyl alcohol (7.5 g, 22 mmol) in 60 mL of THF at 15° C. is added triphenylphosphine (6.35 g, 24 mmol) followed by N-bromosuccinimide (4.3 g, 24 mmol). The solution is stirred for 5 minutes. The solution is allowed to warm to ambient temperature. After 20 minutes, the solution is concentrated. The crude product is purified by column chromatography eluting with EtOAc:CH2Cl2 :hexane (3:1:6).

reactant | 5-iodo-2-(2-methoxy-ethoxymethoxy)-benzyl alcohol | 22 mmol, 7.5 g | IC=1C=CC(=C(CO)C1)OCOCCOC | C11H15IO4
reactant | triphenylphosphine | 24 mmol, 6.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 24 mmol, 4.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 5-Iodo-2-(2-methoxy-ethoxymethoxy)-benzyl bromide | IC=1C=CC(=C(CBr)C1)OCOCCOC | C11H14BrIO3
